US06982278B2
2-Methyl-2-{4-[3-(5-methyl-2-phenyloxazol-4-yl)-allyloxy]phenoxy}propionic acid, ethyl ester
Synthesized from 3-(5-methyl-2-phenyloxazol-4-yl)-prop-2-en-1-ol and ethyl 2-(4-hydroxyphenoxy)-2-methylpropanoate (American Home Products, U.S. Pat. No. 3,795,691) via an analogous procedure to that reported for Example 2, Step A: 1H NMR (300 MHz, CDCl3) δ 7.95-7.99 (m, 2H), 7.36-7.43 (m, 3H), 6.80 (s, 4H), 6.61 (dt, 1H), 6.49 (d, 1H), 4.62 (d, 2H), 4.18 (q, 2H), 2.37 (s, 3H), 1.49 (s, 6H), 1.23 (t, 3H); MS (EI): 422 (M+1).

reactant | 3-(5-methyl-2-phenyloxazol-4-yl)-prop-2-en-1-ol | CC1=C(N=C(O1)C1=CC=CC=C1)C=CCO | C13H13NO2
reactant | ethyl 2-(4-hydroxyphenoxy)-2-methylpropanoate | OC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C12H16O4
product | 2-Methyl-2-{4-[3-(5-methyl-2-phenyloxazol-4-yl)-allyloxy]phenoxy}propionic acid, ethyl ester | CC(C(=O)OCC)(C)OC1=CC=C(C=C1)OCC=CC=1N=C(OC1C)C1=CC=CC=C1 | C25H27NO5
